US04863904
To a solution of 2.62 g of 2-(1-naphthylmethyl)malonic acid diethyl ester in 40 ml of dry 1,2-dimethoxyethane was added 0.46 g of a 50% sodium hydride (suspension in oil) while ice-cooling, and then 2.05 g of 4-phenylbutyl bromide was added dropwise to the mixture. The mixture was heated under reflux for 19 hours. After cooling, an aqueous ether was added to the reaction mixture and the mixture was extracted with diethyl ether. The ethereal layer was washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate, concentrated under reduced pressure. The residue was purified by silica gel flash column chromatography (eluent: benzene/hexane=1/1 by volume) to obtain 2.77 g of 2-(1-naphthylmethyl)-2-(4-phenylbutyl)malonic acid diethyl ester as a colorless oil.

reactant | 2-(1-naphthylmethyl)malonic acid diethyl ester | 2.62 g | C(C)OC(C(C(=O)OCC)CC1=CC=CC2=CC=CC=C12)=O | C18H20O4
reactant | sodium hydride | [H-].[Na+]
reactant | 4-phenylbutyl bromide | 2.05 g | C1(=CC=CC=C1)CCCCBr | C10H13Br
reactant | ether | CCOCC | C4H10O
solvent | 1,2-dimethoxyethane | 40 ml | COCCOC | C4H10O2
product | 2-(1-naphthylmethyl)-2-(4-phenylbutyl)malonic acid diethyl ester | 2.77 g | C(C)OC(C(C(=O)OCC)(CCCCC1=CC=CC=C1)CC1=CC=CC2=CC=CC=C12)=O | C28H32O4
